US06444668B1
6-(3-Chloro-phenyl)-4-phenyl-1,4-dihydro-benzo [d][1,3]oxazin-2-one
Prepared from 1-(4-amino-3′-chloro-biphenyl-3-yl)-benzyl alcohol and triphosgene according to the procedure of Example 9. Off-white solid: mp 177-178° C.; 1H-NMR (DMSO-d6) δ10.5 (s, 1H), 7.68 (dd, 1H, J=8.7, 1.7 Hz), 7.62 (t, 1H, J=1.74 Hz), 7.54-7.5 (m, 1H), 7.48-7.34 (m, 8H), 7.04 (d, 1H, J=8.7 Hz), 6.6 (s, 1H); MS (ESI) m/z 336 ([M+H]+, 30%)

reactant | 1-(4-amino-3′-chloro-biphenyl-3-yl)-benzyl alcohol | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C1(CO)CC=CC=C1 | C19H18ClNO
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
product | 6-(3-Chloro-phenyl)-4-phenyl-1,4-dihydro-benzo [d][1,3]oxazin-2-one | ClC=1C=C(C=CC1)C1=CC2=C(NC(OC2C2=CC=CC=C2)=O)C=C1 | C20H14ClNO2
